US05814653
6-(2,6-dichlorobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 8.7 mg (0.038 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 18.0 mg (0.086 mMol) 2,6-dichlorobenzoic acid, 2.4 mg (16%) of the title compound were recovered as a beige solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.038 mMol, 8.7 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 2,6-dichlorobenzoic acid | 0.086 mMol, 18.0 mg | ClC1=C(C(=O)O)C(=CC=C1)Cl | C7H4Cl2O2
product | 6-(2,6-dichlorobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 2.4 mg, 16% | ClC1=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N(C)C)C(=CC=C1)Cl | C21H21Cl2N3O
